US07595397B2
2-(S)-Benzyl-4-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid methylamide
This compound was made in the following manner: 50 mg of 3-(S)-benzyl-1-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine was dissolved in THF, 2 equiv. methylisocyanate was added. The reaction was stirred at room temperature overnight. The reaction was diluted with DCM, washed with saturated aqueous sodium bicarbonate solution, then dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by column chromatography to afford the title compound as the free base. Treatment with 1 equiv 1M HCl in dioxane an concentration in vacuo afforded 52 mg of the corresponding hydrochloride salt. Yield 84%, ES MS m/z 448

reactant | 3-(S)-benzyl-1-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine | 50 mg | C(C1=CC=CC=C1)[C@H]1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)C)Cl | C25H27ClN2
reactant | methylisocyanate | 2 equiv. | CN=C=O | C2H3NO
solvent | THF | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(S)-Benzyl-4-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid methylamide | CNC(=O)N1[C@H](CN(CC1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)C)Cl)CC1=CC=CC=C1 | C27H30ClN3O
